US05004747
A mixture of 2-(4-fluorophenyl)-4-isopropyl-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid (19.9 g) and thionyl chloride (213 ml) was refluxed for 90 minutes. Excess thionyl chloride was removed in vacuo to give crude 2-(4-fluorophenyl)-4-isopropyl-1-oxo-1,2-dihydroisoquinoline-3-carbonyl chloride (21 g) in the form of a grey/green solid, m.p. 113°-115° C. [Elemental analysis: C, 66.2; H, 4.49; N, 4.06; Cl, 10.8%; calculated: C, 66.4; H, 4.40; N, 4.07; Cl, 10.3%].

reactant | 2-(4-fluorophenyl)-4-isopropyl-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid | 19.9 g | FC1=CC=C(C=C1)N1C(C2=CC=CC=C2C(=C1C(=O)O)C(C)C)=O | C19H16FNO3
reactant | thionyl chloride | 213 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-(4-fluorophenyl)-4-isopropyl-1-oxo-1,2-dihydroisoquinoline-3-carbonyl chloride | 21 g | FC1=CC=C(C=C1)N1C(C2=CC=CC=C2C(=C1C(=O)Cl)C(C)C)=O | C19H15ClFNO2
